US08871767B2
2-ethyl-5-(6-(2-(trifluoromethyl)pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)aniline
A 250 mL flask is charged with N-(5-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-ethylphenyl)pivalamide (2.45 g, 0.00686 mol), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)pyridine (2.34 g, 0.00857 mol), K2CO3 (2.37 g, 0.0171 mol), palladium(II)acetate (0.154 g, 0.686 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.563 g, 0.00137 mol), isopropanol:water (150 mL, 3:1). The mixture is stirred and heated at 60° C. for 6 hr. The mixture is concentrated to dryness, crude product taken up in EtOAc (100 mL), washed with water (50 mL), organic collected and concentrated onto celite and purified by silica gel chromatography (0-75% EtOAc in CH2Cl2). Intermediate is taken up in EtOH (100 mL) and conc. HCl (90 mL) is added. The reaction mixture is heated to reflux for 18 hrs. Reaction is concentrated, taken up in EtOAc (100 mL), washed with 100 mL Sat. NaHCO3. Compound is concentrated onto celite and purified by silica gel chromatography (0-100% EtOAc in CH2Cl2) to give the title compound (1.98 g, 75% over two steps). LCMS m/z=384.4, 385.4 [M+H]+, tR=2.59 min.

reactant | N-(5-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-ethylphenyl)pivalamide | 0.00686 mol, 2.45 g | ClC=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)CC | C19H21ClN4O
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)pyridine | 0.00857 mol, 2.34 g | CC1(OB(OC1(C)C)C=1C(=NC=CC1)C(F)(F)F)C | C12H15BF3NO2
reactant | K2CO3 | 0.0171 mol, 2.37 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.00137 mol, 0.563 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | palladium(II)acetate | 0.686 mmol, 0.154 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 150 mL | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-ethyl-5-(6-(2-(trifluoromethyl)pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)aniline | 1.98 g, 75% | C(C)C1=C(N)C=C(C=C1)C=1N=C2N(N=C(C=C2)C=2C(=NC=CC2)C(F)(F)F)C1 | C20H16F3N5
